US07812167B2
To the title A compound, (4-methanesulfonyl-phenyl)-methanesulfonic acid, sodium salt is added PCl5 (10 g) in 200 mL of chloroform and the mixture is stirred for 48 h. The solids are filtered off, the chloroform is removed by evaporation, and the residue is triturated with hexanes, and the solids are collected by filtration to afford (4-methanesulfonyl-phenyl)-methanesulfonyl chloride.

reactant | (4-methanesulfonyl-phenyl)-methanesulfonic acid | CS(=O)(=O)C1=CC=C(C=C1)CS(=O)(=O)O | C8H10O5S2
reactant | sodium | [Na] | Na
reactant | PCl5 | 10 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-methanesulfonyl-phenyl)-methanesulfonyl chloride | CS(=O)(=O)C1=CC=C(C=C1)CS(=O)(=O)Cl | C8H9ClO4S2
